US08222246B2
6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-morpholin-4-yl-nicotinamide
Hydroxybenzotriazole hydrate (64.7 mg, 0.41 mmol), N-ethyldiisopropylamine (181 ul, 1.04 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (81 mg, 0.41 mmol) were added to a mixture of 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (150 mg, 0.41 mmol) and 4-aminomorpholine (41.5 μL, 0.41 mmol) in THF (15 mL) at room temperature. After stirring overnight the solvent was removed by distillation and the residue was purified by chromatography (silica, dichloromethane:methanol=98:2 to 95:5) afforded the title compound (130 mg, 70%) as a white solid. MS: m/e=445.2 [M−H]−.

reactant | Hydroxybenzotriazole hydrate | 0.41 mmol, 64.7 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-ethyldiisopropylamine | 1.04 mmol, 181 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.41 mmol, 81 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.41 mmol, 150 mg | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H12F2N2O5
reactant | 4-aminomorpholine | 0.41 mmol, 41.5 μL | NN1CCOCC1 | C4H10N2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-morpholin-4-yl-nicotinamide | 130 mg, 70% | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)NN2CCOCC2)C=C1)CO | C21H20F2N4O5
